US04125729
Methyl α-(5-indanyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 3.36 g of 5-indanol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed overnight and added to 100 ml of water. The mixture is then extracted with 2 × 75 ml of ether and the combined extracts are washed with 50 ml of 5% NaOH, 50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent yields a yellow oil. Chromatography on 100 g of silica gel (benzene, 400 ml) yields a light yellow oil.

reactant | 5-indanol | 3.36 g | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(5-indanyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | C1CCC2=CC(=CC=C12)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C24H21ClO4
